US05026872
4,4'-bis(m-aminophenoxy)benzophenone was prepared in accordance with the method of Example 1 employing 4,4'-dichlorobenzophenone and m-aminophenol as the starting materials. 26% yield of product having a melting point of about 138°-140° C. was obtained.

reactant | 4,4'-dichlorobenzophenone | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | m-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | 4,4'-bis(m-aminophenoxy)benzophenone | NC=1C=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC3=CC(=CC=C3)N)C=C2)C=CC1 | C25H20N2O3
